US08729068B2
A mixture of 250 mg of methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 153 mg of N-methyl-D-glucamine, and 2.5 mL of dichloromethane was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure and the residue was washed with water to obtain 256 mg of 1-deoxy-1-[{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}(methyl)amino]-D-glucitol as a yellow solid.

reactant | methyl 4-[2-(4-{[(2-{[3-(chlorosulfonyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 250 mg | ClS(=O)(=O)C=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C32H29ClN2O6S2
reactant | N-methyl-D-glucamine | 153 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
product | 1-deoxy-1-[{[3-({3-[(4-{2-[4-(methoxycarbonyl)phenyl]ethyl}phenyl)carbamoyl]-4,5,6,7-tetrahydro-1-benzothiophen-2-yl}carbamoyl)phenyl]sulfonyl}(methyl)amino]-D-glucitol | 256 mg | COC(=O)C1=CC=C(C=C1)CCC1=CC=C(C=C1)NC(=O)C1=C(SC2=C1CCCC2)NC(=O)C=2C=C(C=CC2)S(=O)(=O)N(C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)C | C39H45N3O11S2
